US06048884
1.07 g of ethyl imidazol-2-ylaceate hydrochloride and 1.69 g of 4-chlorobenzyl bromide were subjected to an alkylation reaction to obtain 0.75 g of ethyl 1-(4-chlorobenzyl)imidazol-2-ylacetate.

reactant | ethyl imidazol-2-ylaceate hydrochloride | 1.07 g | Cl.N1C(=NC=C1)CC(=O)OCC
reactant | 4-chlorobenzyl bromide | 1.69 g | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
product | ethyl 1-(4-chlorobenzyl)imidazol-2-ylacetate | 0.75 g | ClC1=CC=C(CN2C(=NC=C2)CC(=O)OCC)C=C1 | C14H15ClN2O2
